* 741 model derived from KiCad schematic
* node sequence according to KiCad symbol LM741
.subckt KI741 O1 Inv Ninv Vee O2 Out Vcc
.model NP NPN (BF=125 Cje=0.5p Cjc=0.5p Rb=500)
.model PN LPNP (BF=25 Cje=0.3p Cjc=1.5p Rb=250)
Q12 Net-_Q12-Pad1_ Net-_Q12-Pad1_ Vcc PN
Q13 Net-_C1-Pad1_ Net-_Q12-Pad1_ Vcc PN
C1 Net-_C1-Pad1_ Net-_C1-Pad2_ 30p
Q7 Vcc Net-_Q3-Pad1_ Net-_Q5-Pad2_ NP
Q8 Net-_Q1-Pad1_ Net-_Q1-Pad1_ Vcc PN
Q1 Net-_Q1-Pad1_ Ninv Net-_Q1-Pad3_ NP
Q3 Net-_Q3-Pad1_ Net-_Q10-Pad1_ Net-_Q1-Pad3_ PN
R4 Net-_Q10-Pad3_ Vee 5k
Q11 Net-_Q10-Pad2_ Net-_Q10-Pad2_ Vee NP
Q10 Net-_Q10-Pad1_ Net-_Q10-Pad2_ Net-_Q10-Pad3_ NP
R7 Net-_Q16-Pad2_ Net-_Q15-Pad1_ 7.5k
R11 Out Net-_Q20-Pad3_ 50
R10 Net-_Q14-Pad3_ Out 25
Q17 Net-_C1-Pad1_ Net-_Q14-Pad3_ Out NP
Q14 Vcc Net-_C1-Pad1_ Net-_Q14-Pad3_ NP
R6 Net-_C1-Pad1_ Net-_Q16-Pad2_ 4.5k
Q16 Net-_C1-Pad1_ Net-_Q16-Pad2_ Net-_Q15-Pad1_ NP
Q5 Net-_Q3-Pad1_ Net-_Q5-Pad2_ O1 NP
R3 O2 Vee 1k
R2 Net-_Q5-Pad2_ Vee 50k
Q6 Net-_C1-Pad2_ Net-_Q5-Pad2_ O2 NP
R1 O1 Vee 1k
Q4 Net-_C1-Pad2_ Net-_Q10-Pad1_ Net-_Q2-Pad3_ PN
Q2 Net-_Q1-Pad1_ Inv Net-_Q2-Pad3_ NP
Q9 Net-_Q10-Pad1_ Net-_Q1-Pad1_ Vcc PN
R5 Net-_Q12-Pad1_ Net-_Q10-Pad2_ 39k
Q22 Net-_C1-Pad2_ Net-_Q19-Pad3_ Vee NP
R8 Net-_Q15-Pad3_ Vee 50k
R9 Net-_Q19-Pad3_ Vee 50
Q15 Net-_Q15-Pad1_ Net-_C1-Pad2_ Net-_Q15-Pad3_ NP
Q19 Net-_Q15-Pad1_ Net-_Q15-Pad3_ Net-_Q19-Pad3_ NP
Q20 Vee Net-_Q15-Pad1_ Net-_Q20-Pad3_ PN
.ends
